US08895745B2
1-Ethyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea
To a solution of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (30 g, 137 mmol, 1.0 equiv) in THF (300 ml) was added triethylamine (58 ml, 410 mmol, 3.0 equiv) and ethyl isocyanate (16.3 ml, 205 mmol, 1.5 equiv). The reaction was warmed to 60° C. for 2 hours. The reaction was cooled to room temperature and diluted with diethyl ether (600 ml). The precipitate was filtered and solid was washed with diethylether to afford desired product 34 g.

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 137 mmol, 30 g, 1.0 equiv | CC1(OB(OC1(C)C)C=1C=C(N)C=CC1)C | C12H18BNO2
reactant | triethylamine | 410 mmol, 58 ml, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 205 mmol, 16.3 ml, 1.5 equiv | C(C)N=C=O | C3H5NO
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | 1-Ethyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 34 g | C(C)NC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C15H23BN2O3
